US07192943B2
To a solution of tert-butyl ({3E)-4-cyano-3-[({5-(tritylamino)-1-[2-(trityloxy)ethyl]-1H-pyrazol-4-yl}amino)carbonyl]-3-buten-1-yl}carbamate (1.1 g) in ethanol (10 ml) was added di-tert-butyl dicarbonate (297 mg) and PtO2 (59 mg), and the mixture was stirred for 5 days under hydrogen atmosphere. The catalyst was filtered off, and the filtrate was concentrated under reduced pressure to give an oil, which was purified by column chromatography on silica gel (methylene chloride:ethyl acetate=5:1→1:1) to give di-tert-butyl {3-[({5-(tritylamino)-1-[2-(trityloxy)ethyl]-1H-pyrazol-4-yl}amino)carbonyl]-1,5-pentanediyl}biscarbamate (570 mg).

reactant | tert-butyl ({3E)-4-cyano-3-[({5-(tritylamino)-1-[2-(trityloxy)ethyl]-1H-pyrazol-4-yl}amino)carbonyl]-3-buten-1-yl}carbamate | 1.1 g | C(#N)/C=C(\CCNC(OC(C)(C)C)=O)/C(=O)NC=1C=NN(C1NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)CCOC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C54H52N6O4
reactant | di-tert-butyl dicarbonate | 297 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | ethanol | 10 ml | C(C)O | C2H6O
catalyst | PtO2 | 59 mg | O=[Pt]=O
product | di-tert-butyl {3-[({5-(tritylamino)-1-[2-(trityloxy)ethyl]-1H-pyrazol-4-yl}amino)carbonyl]-1,5-pentanediyl}biscarbamate | 570 mg | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NC1=C(C=NN1CCOC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)NC(=O)C(CCNC(OC(C)(C)C)=O)CCNC(OC(C)(C)C)=O | C59H66N6O6
